US08461167B2
1-(1H-imidazol-2-yl)-N,N-dimethylethanamine
To a two-necked round-bottomed flask equipped with a reflux condenser and a pressure-equalizing addition funnel, was added 2-imidazolecarboxaldehyde (6 g, 62.5 mmol) in MeOH (60 mL). To this suspension (ambient temperature) was added a solution of dimethylamine (40% aqueous, 60 mL) at a fast dropping rate (20 min). After the addition was complete, solid sodium borohydride (7 g, 186.8 mmol.) was CAUTIOUSLY added portionwise over 45 min. Foaming occurred after each portion, and the internal temperature was allowed to maintain ˜50° C. without external cooling. The reaction mixture was then heated to 65° C. for 3 h and allowed to cool to ambient temperature for overnight. The reaction contents were concentrated in vacuo and the resultant residue was taken up in EtOAc (2×30 mL) washed with brine and with CHCl3 (4×100 mL). The EtOAc extract was discarded. The CHCl3 extract was dried over (NaSO4), filtered, and concentrated in vacuo to give 3.7 g of the desired product as a waxy solid.

reactant | 2-imidazolecarboxaldehyde | 62.5 mmol, 6 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | dimethylamine | 60 mL | CNC | C2H7N
reactant | sodium borohydride | 186.8 mmol, 7 g | [BH4-].[Na+]
reactant | MeOH | 60 mL | CO | CH4O
product | 1-(1H-imidazol-2-yl)-N,N-dimethylethanamine | 3.7 g | N1C(=NC=C1)C(C)N(C)C | C7H13N3
